US06160064
Preparation of Bromo-3,5-di-t-butylbenzene
1,3,5-Tri-t-butylbenzene (150 g, 0.6 mol) was dissolved in carbon tetrachloride (300 mL) in a three-necked flask which had been painted black to avoid light and equipped with an overhead stirrer, thermometer and addition funnel under argon. Iron pellets (36 g, 0.64 mol) were added and the slurry was cooled to 5° C. t-Butylcatechol (1.0 g) was added and a solution of bromine (201.6 g, 1.26 mol) in carbon tetrachloride (75 mL) was added over a one hour period. The slurry was stirred for an additional 4 hours at 5° C. and quenched by pouring into ice water. The layers were separated and the organics washed with 10% sodium hydroxide solution. The solution was then washed with salt brine and dried over magnesium sulfate. The solvent was evaporated and the product was distilled under vacuum twice to give 75 g of product which was then recrystallized from heptane to give 47 g of pure product (29%).

reactant | 1,3,5-Tri-t-butylbenzene | 0.6 mol, 150 g | C(C)(C)(C)C1=CC(=CC(=C1)C(C)(C)C)C(C)(C)C | C18H30
reactant | bromine | 1.26 mol, 201.6 g | BrBr | Br2
solvent | carbon tetrachloride | 300 mL | C(Cl)(Cl)(Cl)Cl | CCl4
solvent | carbon tetrachloride | 75 mL | C(Cl)(Cl)(Cl)Cl | CCl4
catalyst | Iron | [Fe] | Fe
catalyst | t-Butylcatechol | 1.0 g | C(C)(C)(C)C1=C(C(O)=CC=C1)O | C10H14O2
product | Bromo-3,5-di-t-butylbenzene | 75 g | BrC1=CC(=CC(=C1)C(C)(C)C)C(C)(C)C | C14H21Br
